US04352913
(CH3)2NCH2CH2OCH2CH2CN
244 g of acrylonitrile are added dropwise to 356.5 g of 2-dimethylaminoethanol and 5 ml of Triton B in the course of 15 minutes. In the course of the ensuing exothermic reaction the mixture warms from room temperature to 75° C. While adding a further 5 ml of Triton B, the mixture is heated for 8 hours to 95° C. and then distilled. Yield: 451.4 g (79.4%) of analytically pure product (analysis by gas chromatography); b.p. 102° C./8 torr.

reactant | acrylonitrile | 244 g | C(C=C)#N | C3H3N
reactant | 2-dimethylaminoethanol | 356.5 g | CN(CCO)C | C4H11NO
product | (CH3)2NCH2CH2OCH2CH2CN | N(C)(C)CCOCCC#N | C7H14N2O
